US05929067
(f) 4-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5diphenyl-pent-2-enoic acid ethyl ester
A solution of 10.6 g (34.3 mmol) of 4-methylamino-5,5-diphenyl-pent-2-enoic acid ethyl ester in 110 ml of methylene chloride is added at 0° C. via a cannula to a solution of 6.7 ml (36.0 mmol) of 3,5-bistrifluoromethyl-benzoyl chloride in 110 ml of methylene chloride. 5.8 ml (41.1 mmol) of triethylamine and 0.4 g (3.4 mmol) of 4-dimethylaminopyridine are then added. After 1 hour the reaction mixture is diluted with ethyl acetate and washed twice with water and once with brine. The aqueous phases are back-extracted once with ethyl acetate. The combined organic phases are then dried over magnesium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride/methanol (100:0 to 98:2). The title compound is obtained in the form of a light-yellow foam. TLC: methylene chloride/methanol (98:2) Rf =0.38; Rt (HPLC)=22.4 min; 1H-NMR (400 MHz, d6 -DMSO, 120° C.) d 8.00 (br, 1H), 7.47-7.29 (m, 10H), 7.26-7.20 (m, 2H), 6.83 (dd, 1H), 5.96 (d, 1H), 5.89 (br, 1H), 4.65 (d, 1H), 4.10 (q, 2H), 2.68 (s, 3H), 1.18 (t, 3H); FAB-MS (M+H)+ =550.

reactant | 4-methylamino-5,5-diphenyl-pent-2-enoic acid ethyl ester | 34.3 mmol, 10.6 g | C(C)OC(C=CC(C(C1=CC=CC=C1)C1=CC=CC=C1)NC)=O | C20H23NO2
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 36.0 mmol, 6.7 ml | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | triethylamine | 41.1 mmol, 5.8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.4 mmol, 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5diphenyl-pent-2-enoic acid ethyl ester | C(C)OC(C=CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C29H25F6NO3
